US07829580B2
(c) (E)-3-({2-[3-(Ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol
(E)-3-({2-[3-(Ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one (3.93 g) was reduced with sodium borohydride (281 mg) in a mixed solvent of dichloromethane (30 ml) and ethanol (30 ml) in a similar manner to that mentioned in Example 138 (c), and the crude product obtained by conventional extraction procedures was purified by chromatography on silica gel using a mixture of ethyl acetate and hexane (1:9 to 7:3) as the eluent to afford the title compound as a yellow oil (1.46 g, yield: 37%).

reactant | (E)-3-({2-[3-(Ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one | 3.93 g | C(C)OC(=O)CCCN1N=C(N=N1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H33N5O3
reactant | sodium borohydride | 281 mg | [BH4-].[Na+]
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (E)-3-({2-[3-(Ethoxycarbonyl)propyl]-2H-tetrazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol | 1.46 g, yield: 37% | C(C)OC(=O)CCCN1N=C(N=N1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H35N5O3
